US07238725B2
Step 4: N4-(3,5-dichloro-4-pyridyl)-9-benzyl-1-methoxy-9H-4-carbazolecarboxamide
To a solution of 4-nitrophenyl-9-benzyl-1-methoxy-9H-4-carbazolecarboxylate (229 mg, 0.506 mmoles) and 3,5-dichloro-4-aminopyridine (82.53 mg, 0.506 mmoles) in dry DMF (10 ml), under N2 atmosphere, 60% sodium hydride (44.19 mg, 1.012 mmoles) was added at 25° C. and the reaction mixture was stirred overnight. The reaction mixture was poured into ice-cold water and neutralized with 1N HCl. The compound was extracted with chloroform (2×15ml), combined the organic layers and washed with water (3×15 ml) and with brine (15 ml). The organic layer was dried over anhydrous sodium sulphate and concentrated to give 200 mg of the crude compound which was purified by column chromatography to yield 139 mg of the title compound as light brown colored solid, m.p: 215-217° C.

reactant | 4-nitrophenyl-9-benzyl-1-methoxy-9H-4-carbazolecarboxylate | 0.506 mmoles, 229 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C=2N(C3=CC=CC=C3C2C(=C1)C(=O)[O-])CC1=CC=CC=C1)OC
reactant | 3,5-dichloro-4-aminopyridine | 0.506 mmoles, 82.53 mg | ClC=1C=NC=C(C1N)Cl | C5H4Cl2N2
reactant | sodium hydride | 1.012 mmoles, 44.19 mg | [H-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N4-(3,5-dichloro-4-pyridyl)-9-benzyl-1-methoxy-9H-4-carbazolecarboxamide | 139 mg | ClC=1C=NC=C(C1NC(=O)C1=CC=C(C=2N(C3=CC=CC=C3C12)CC1=CC=CC=C1)OC)Cl | C26H19Cl2N3O2
